US05438052
A mixture of 1.0 g (3.5 mmol) of methyl 5-bromo-2-chloro-3,4-dihydroxybenzoate and 7.5 ml of dichlorodiphenylmethane is held at 150° C. under argon for 21/2 minutes. After rapid cooling the product is crystallized from n-pentane. There are obtained 1.3 g of methyl 7-bromo-4-chloro-2,2-diphenyl-1,3-benzodioxol-5-carboxylate as white crystals of melting point 137°-138° C.

reactant | methyl 5-bromo-2-chloro-3,4-dihydroxybenzoate | 3.5 mmol, 1.0 g | BrC=1C(=C(C(=C(C(=O)OC)C1)Cl)O)O | C8H6BrClO4
reactant | dichlorodiphenylmethane | 7.5 ml | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C13H10Cl2
product | methyl 7-bromo-4-chloro-2,2-diphenyl-1,3-benzodioxol-5-carboxylate | 1.3 g | BrC1=CC(=C(C2=C1OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)Cl)C(=O)OC | C21H14BrClO4
